US09145414B2
2-Methyl-2-propanol (5 mL) and concentrated sulfuric acid (0.1 mL) were added to 7-bromo-5-nitro-1H-indazole (484 mg), and the reaction solution was allowed to react in a microwave reactor at 100° C. for 1 hour. After dilution with ethyl acetate, the reaction solution was washed successively with an aqueous sodium bicarbonate solution and a saturated saline solution. After drying over anhydrous sodium sulfate, the solvent was evaporated under vacuum to obtain 7-bromo-2-(tert-butyl)-5-nitro-2H-indazole as a light yellow solid.

reactant | sulfuric acid | 0.1 mL | S(O)(O)(=O)=O | H2O4S
reactant | 7-bromo-5-nitro-1H-indazole | 484 mg | BrC=1C=C(C=C2C=NNC12)[N+](=O)[O-] | C7H4BrN3O2
solvent | 2-Methyl-2-propanol | 5 mL | CC(C)(C)O | C4H10O
product | 7-bromo-2-(tert-butyl)-5-nitro-2H-indazole | BrC1=CC(=CC2=CN(N=C12)C(C)(C)C)[N+](=O)[O-] | C11H12BrN3O2
